US08466296B2
A. Preparation of [(3S)-3-(hydroxymethyl)-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl]acetonitrile
A 5 L 3-necked flask equipped with a mechanical stirrer is charged with solid potassium t-butoxide (103.00 g, 0.918 mol) and DMF (1900 mL). The stirred solution is cooled until the internal temperature is 0° C., and a DMF (1100 mL) solution containing [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol (47.33 g, 0.224 mol) and (4-chlorophenoxy)acetonitrile (39.05 g, 0.233 mol) is added over 45 min. The reaction is quenched with 1 N HCl (1 L) and the volatiles are removed by rotary evaporation (˜3 L removed). The residue is dissolved in water (2 L) and extracted with EtOAc (3×600 mL). The combined extracts are washed with water (2×300 mL), 1 N NaOH (3×400 mL) and brine (300 mL), and evaporated to give an orange/brown solid. The solid is suspended with stirring in MTBE (300 mL) for 30 min. The solid is collected by vacuum filtration, washed with MTBE (50 mL) and then suction dried giving the title compound (33.60 g, 60%) as a tan solid. LCMS (Standard Method): 2.14 min, 251 (M+H)+. 1H NMR (300 MHz, CDCl2) δ 7.77 (d, J=9.2 Hz, 1H), 7.00 (d, J=9.2 Hz, 1H), 4.48-4.37 (m, 2H). 4.28-3.91 (series of m, 5H), 2.32 (br s, 1H).

reactant | potassium t-butoxide | 0.918 mol, 103.00 g | CC(C)([O-])C.[K+]
reactant | DMF | 1900 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1100 mL | CN(C)C=O | C3H7NO
reactant | [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol | 0.224 mol, 47.33 g | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CO)C1 | C9H9NO5
reactant | (4-chlorophenoxy)acetonitrile | 0.233 mol, 39.05 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
solvent | MTBE | 300 mL | CC(C)(C)OC | C5H12O
product | [(3S)-3-(hydroxymethyl)-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl]acetonitrile | 33.60 g, 60% | OC[C@@H]1OC2=C(OC1)C=CC(=C2CC#N)[N+](=O)[O-] | C11H10N2O5
